US05013741
N-[(4-Nitrophenyl)methylene]-1,2,3,4-tetrahydro-9-acridinamine
1,2,3,4-Tetrahydro-9-acridinamine (4.0 g) was refluxed in 400 ml of toluene containing morpholine (3.5 g) and 4-nitrobenzaldehyde (3.78 g). After forty-eight (48) hours an additional 3.78 g of aldehyde was added and reflux was continued for an additional twenty-four (24) hours. At the end of this time the reaction mixture was concentrated and purified by flash chromatography. Fractions containing the product were concentrated and recrystallized from CH2Cl2 /pentane to give 3.38 g of product, m.p. 237°-238° C.

reactant | 1,2,3,4-Tetrahydro-9-acridinamine | 4.0 g | C1CCCC2=NC3=CC=CC=C3C(=C12)N | C13H14N2
reactant | morpholine | 3.5 g | N1CCOCC1 | C4H9NO
reactant | 4-nitrobenzaldehyde | 3.78 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | N-[(4-Nitrophenyl)methylene]-1,2,3,4-tetrahydro-9-acridinamine | 3.38 g | [N+](=O)([O-])C1=CC=C(C=C1)C=NC=1C2=CC=CC=C2N=C2CCCCC12 | C20H17N3O2
